US05834454
2-(Methylamino)ethanol (17.3 g, 231 mmol) was added dropwise to a solution of 4-chloro-3-nitrobenzotrifluoride (26.0 g, 115 mmol) in N,N-dimethylformamide (100 ml) at 0° C. After the reaction temperature was raised to room temperature, the reaction mixture was stirred at room temperature for 1 hour, poured into a saturated aqueous ammonium chloride solution, and then extracted twice with ethyl acetate. The organic layer was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol = 97/3) to obtain an oil of 4-[N-methyl-N-(2-hydroxy-ethyl) amino]-3-nitrobenzotrifluoride.

reactant | 2-(Methylamino)ethanol | 231 mmol, 17.3 g | CNCCO | C3H9NO
reactant | 4-chloro-3-nitrobenzotrifluoride | 115 mmol, 26.0 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-[N-methyl-N-(2-hydroxy-ethyl) amino]-3-nitrobenzotrifluoride | CN(CCO)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H11F3N2O3
